US05663440
In a 2-liter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 700 milliliters of benzene was introduced and 177.0 g of aluminum chloride was added with ice cooling. Then, a solution of 101.6 g of adipoyl chloride in 300 milliliters of benzene was added dropwise for 35 minutes. After stirring for one day and one night with warming back to the room temperature, the solution was poured in 3 liters of ice water containing dilute hydrochloric acid, and extracted with 2.5 liters of toluene. Thereafter, the solution was washed with a 0.5N aqueous solution of sodium hydroxide and water, and then dried with anhydrous magnesium sulfate. After removing off the solvent by a rotary evaporator, 128.4 g of 1,6-diphenylhexane-1,6-dione was obtained as crystals by recrystallizing the obtained crystals from ethyl acetate.

reactant | aluminum chloride | 177.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | adipoyl chloride | 101.6 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | benzene | 300 milliliters | C1=CC=CC=C1 | C6H6
reactant | benzene | 700 milliliters | C1=CC=CC=C1 | C6H6
product | 1,6-diphenylhexane-1,6-dione | 128.4 g | C1(=CC=CC=C1)C(CCCCC(=O)C1=CC=CC=C1)=O | C18H18O2
